US06331538B1
3-Allyloxy-1-benzyl-6-fluoro-7-pyrrolidin-1-yl-1H-quinazoline-2,4-dione
Pyrrolidine (0.04 mL, 0.52 mmol) was added to a solution of 3-allyloxy-1-benzyl-6,7-difluoro-1H-quinazoline-2,4-dione (Example A-4, 0.15 g, 0.4 mmol) and triethylamine (0.12 mL, 0.9 mmol) in 15 mL of acetonitrile. The solution was warmed to reflux for 17 hours, cooled, and concentrated to a solid. The solid was dissolved in chloroform washed with 1N HCl, saturated NaHCO3, brine, and dried over magnesium sulfate. The solution was concentrated to give 0.15 g of the title compound as a solid, mp 148-150° C.

reactant | Pyrrolidine | 0.52 mmol, 0.04 mL | N1CCCC1 | C4H9N
reactant | 3-allyloxy-1-benzyl-6,7-difluoro-1H-quinazoline-2,4-dione | 0.4 mmol, 0.15 g | C(C=C)ON1C(N(C2=CC(=C(C=C2C1=O)F)F)CC1=CC=CC=C1)=O | C18H14F2N2O3
reactant | triethylamine | 0.9 mmol, 0.12 mL | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 15 mL | C(C)#N | C2H3N
product | 3-Allyloxy-1-benzyl-6-fluoro-7-pyrrolidin-1-yl-1H-quinazoline-2,4-dione | 0.15 g | C(C=C)ON1C(N(C2=CC(=C(C=C2C1=O)F)N1CCCC1)CC1=CC=CC=C1)=O | C22H22FN3O3
